US08350044B2
Preparation of [(5-fluoropyridine-3-carbonyl)-amino]-acetic acid methyl ester
To a solution of [(2-chloro-5-fluoropyridine-3-carbonyl)-amino]-acetic acid methyl ester (4.65 g, 18.9 mmol) in methanol (200 mL) in a Parr vessel was added Et3N (3.15 mL, 22.6 mmol) and palladium hydroxide on carbon (1.5 g, 20 wt % Pd, moisture 60%). The vessel was evacuated and then put under an atmosphere of hydrogen (initial pressure 42 psi). After 5 min the hydrogen pressure was 14 psi. The catalyst was removed via suction filtration over Celite® and then the filtrate was concentrated. Purification by silica gel chromatography (0 to 100% ethyl acetate/hexanes) afforded a light yellow solid (3.83 g, 95%): mp 80-82° C.; 1H NMR (300 MHz, CDCl3) δ 8.84 (s, 1H), 8.62 (d, J=2.7 Hz, 1H), 7.87 (m, 1H), 7.00 (br s, 1H), 4.27 (d, J=5.3 Hz, 2H), 3.82 (s, 3H); ESIMS m/z 213 (M+1).

reactant | [(2-chloro-5-fluoropyridine-3-carbonyl)-amino]-acetic acid methyl ester | 18.9 mmol, 4.65 g | COC(CNC(=O)C=1C(=NC=C(C1)F)Cl)=O | C9H8ClFN2O3
reactant | Et3N | 22.6 mmol, 3.15 mL | CCN(CC)CC | C6H15N
solvent | methanol | 200 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 1.5 g | [OH-].[OH-].[Pd+2]
product | [(5-fluoropyridine-3-carbonyl)-amino]-acetic acid methyl ester | 3.83 g, 95% | COC(CNC(=O)C=1C=NC=C(C1)F)=O | C9H9FN2O3
